US05916898
Trifluoroacetic anhydride (0.5 ml) was added dropwise to a stirred, ice-cooled mixture of 8-(N-benzyl-N-methylcarbamoyl)-3-carbamoyl-4-chloro-5-fluoro-1,10-phenanthroline (0.3 g) in pyridine (3 ml). The mixture was stirred at ambient temperature for 1 hour. The mixture was acidified with 3M hydrochloric acid and stirred at ambient temperature for 18 hours. The mixture was filtered and the solid so obtained recrystallised from a mixture of methanol and ethyl acetate to give 8-(N-benzyl-N-methylcarbamoyl)-3-cyano-5-fluoro-4-oxo-3,4-dihydro-1,10-phenanthroline in 24% yield, mp 267-269° C.

reactant | Trifluoroacetic anhydride | 0.5 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 8-(N-benzyl-N-methylcarbamoyl)-3-carbamoyl-4-chloro-5-fluoro-1,10-phenanthroline | 0.3 g | C(C1=CC=CC=C1)N(C(=O)C1=CC2=CC(=C3C(=C(C=NC3=C2N=C1)C(N)=O)Cl)F)C | C22H16ClFN4O2
reactant | hydrochloric acid | 3M | Cl | ClH
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | 8-(N-benzyl-N-methylcarbamoyl)-3-cyano-5-fluoro-4-oxo-3,4-dihydro-1,10-phenanthroline | 24% yield | C(C1=CC=CC=C1)N(C(=O)C1=CC2=CC(=C3C(C(C=NC3=C2N=C1)C#N)=O)F)C | C22H15FN4O2
